US08748418B2
c) 4-Chloro-1-difluoromethyl-1H-pyrazole-3-carboxylic acid
A solution of 4-chloro-1-difluoromethyl-1H-pyrazole-3-carboxylic acid methyl ester (540 mg, 2.6 mmole) in THF (18 ml) was treated at 23° C. with a solution of lithium hydroxide (135 mg, 5.6 mmole) in a 1:1-mixture of water and methanol (12 ml). After 1 hour the reaction was complete, and the solvents were evaporated at reduced pressure. The residue was partitioned between 2 M aqueous HCl and AcOEt, the organic layer was dried, evaporated, the residue was triturated with pentane and the solid was dried to give the title compound (477 mg) as a white solid. MS: m/z=195.0 [M−H]−.

reactant | 4-chloro-1-difluoromethyl-1H-pyrazole-3-carboxylic acid methyl ester | 2.6 mmole, 540 mg | COC(=O)C1=NN(C=C1Cl)C(F)F | C6H5ClF2N2O2
reactant | lithium hydroxide | 5.6 mmole, 135 mg | [OH-].[Li+]
reactant | water | O | H2O
reactant | methanol | 12 ml | CO | CH4O
solvent | THF | 18 ml | C1CCOC1 | C4H8O
product | 4-Chloro-1-difluoromethyl-1H-pyrazole-3-carboxylic acid | 477 mg | ClC=1C(=NN(C1)C(F)F)C(=O)O | C5H3ClF2N2O2
